US05292747
A solution of 700 mg of cis-3-[2-(tert.butoxy-carbonyl)-2,3,3a,4,11,11a-hexahydro-1H-pyrrolo[3',4':4,5]pyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 6 ml of DMF and 6 ml of 33% aqueous ammonia was heated to 100° C. for 2.5 hours in a sealed vessel. The mixture was left to cool and the solid formed was filtered off and dried to give 400 mg of cis-3-[2-(tert.butoxycarbonyl)-2,3,3a,4, 11,11a-hexahydro-1H-pyrrolo[3',4':4,5]pyrido[1,2-a]-indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 173°-175° C.

reactant | cis-3-[2-(tert.butoxy-carbonyl)-2,3,3a,4,11,11a-hexahydro-1H-pyrrolo[3',4':4,5]pyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 700 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2CC=3N(C=4C=CC=CC4C3C=3C(OC(C3C3=CN(C4=CC=CC=C34)C)=O)=O)C[C@@H]2C1 | C32H31N3O5
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 6 ml | N | H3N
product | cis-3-[2-(tert.butoxycarbonyl)-2,3,3a,4, 11,11a-hexahydro-1H-pyrrolo[3',4':4,5]pyrido[1,2-a]-indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 400 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2CC=3N(C=4C=CC=CC4C3C=3C(NC(C3C3=CN(C4=CC=CC=C34)C)=O)=O)C[C@@H]2C1 | C32H32N4O4
